US04739083
2-Ethyl-6-methyl-4-oxo-N-phenyl-4H-pyran-3-carboxamide
The title compound was prepared from 3-oxo-N-phenylvaleramide (m.p. 84.0°-85.5° C.) and 2,2,6-trimethyl-4H-1,3-dioxin-4-one, instead of 2-ethyl-2,6-dimethyl-4H-1,3-dioxin-4-one in Example 15, as the raw materials in a similar way to the method described in Example 15. (Yield: 49%) m.p.: 154.5°-156° C.

reactant | 3-oxo-N-phenylvaleramide | O=C(CC(=O)NC1=CC=CC=C1)CC | C11H13NO2
reactant | 2,2,6-trimethyl-4H-1,3-dioxin-4-one | CC1(OC(=CC(O1)=O)C)C | C7H10O3
reactant | 2-ethyl-2,6-dimethyl-4H-1,3-dioxin-4-one | C(C)C1(OC(=CC(O1)=O)C)C | C8H12O3
product | 2-Ethyl-6-methyl-4-oxo-N-phenyl-4H-pyran-3-carboxamide | Yield: 49% | C(C)C=1OC(=CC(C1C(=O)NC1=CC=CC=C1)=O)C | C15H15NO3
